US05112998
In 10 ml of dioxane was dissolved 25 mg of tris(dibenzylideneacetone)dipalladium(chloroform), followed by addition of 45 μl of tri-n-butylphosphine. The mixture was stirred in an atmosphere of argon gas at room temperature for 10 minutes. To this mixture was added a solution of 270 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β,7α-tris(methoxycarbonyloxy)pregn-5-ene in 10 ml of dioxane and the mixture was refluxed for 12 hours. The resulting reaction mixture was cooled to room temperature and filtered with the aid of Florisil. The filtrate was concentrated under reduced pressure and the concentrate was purified by column chromatography. The procedure yielded 118 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene showing the same physical properties as the compound obtained in Example 124.

reactant | tri-n-butylphosphine | 45 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β,7α-tris(methoxycarbonyloxy)pregn-5-ene | 270 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC)OC(=O)OC)C | C33H50O11
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene | 118 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC)C | C31H46O8
